US05801253
3.42 g (E)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-en-1-ol were dissolved in 23 ml of CH2Cl2 and treated with 16.1 g of MnO2. The reaction mixture was vigorously stirred at ambient temperature over night and then filtered through Celite. Evaporation of the solvent followed by flash chromatography (silica gel, hexane/AcOEt=92:8) afforded 2.86 g of (E)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-enal as pale yellow oil.

reactant | (E)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-en-1-ol | 3.42 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/CO)/C)C | C18H26O
solvent | CH2Cl2 | 23 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 16.1 g | O=[Mn]=O
product | (E)-3-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-but-2-enal | 2.86 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)/C(=C/C=O)/C)C | C18H24O
